US08877816B2
5-[3-(3-Chloro-phenoxy)-4-methoxy-benzyl]-pyridin-2-ylamine HCl salt P-05.
N-{5-[3-(3-Chloro-phenoxy)-4-methoxy-benzyl]-pyridin-2-yl}-methanesulfonamide HCl salt, P-09. To a 25 mL vial which contained 5-[3-(3-chloro-phenoxy)-4-methoxy-benzyl]-pyridin-2-ylamine P-05 (170 mg, 0.5 mmol) in pyridine (8 mL) was added methanesulfonyl chloride (144 mg, 1.3 mmol) at rt. The mixture was stirred at rt for 24 h. The mixture was poured into 50 mL ice-water and extracted with ethyl acetate, washed with water 1 N HCl, brine, and dried over Na2SO4. After it was concentrated in vacuo, the residue was purified by chromatography on silica gel with ethyl acetate/hexane as eluent to yield 80 mg (38% yield) of the desired product, P-09, using 2N HCl in ether was to convert into its HCl salt 50 mg (60% yield).

reactant | N-{5-[3-(3-Chloro-phenoxy)-4-methoxy-benzyl]-pyridin-2-yl}-methanesulfonamide HCl salt | Cl.ClC=1C=C(OC=2C=C(CC=3C=CC(=NC3)NS(=O)(=O)C)C=CC2OC)C=CC1
reactant | 5-[3-(3-chloro-phenoxy)-4-methoxy-benzyl]-pyridin-2-ylamine | ClC=1C=C(OC=2C=C(CC=3C=CC(=NC3)N)C=CC2OC)C=CC1 | C19H17ClN2O2
reactant | methanesulfonyl chloride | 1.3 mmol, 144 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | pyridine | 8 mL | N1=CC=CC=C1 | C5H5N
product | 5-[3-(3-Chloro-phenoxy)-4-methoxy-benzyl]-pyridin-2-ylamine HCl salt | 80 mg, 38% yield | Cl.ClC=1C=C(OC=2C=C(CC=3C=CC(=NC3)N)C=CC2OC)C=CC1 | InChI=1S/C19H17ClN2O2.ClH/c1-23-17-7-5-13(9-14-6-8-19(21)22-12-14)10-18(17)24-16-4-2-3-15(20)11-16;/h2-8,10-12H,9H2,1H3,(H2,21,22);1H
